US08293768B2
Synthesis of 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-(oxazol-2-ylmethyl)thiophene-2-carboxamide
Following the procedure as described in Example 31, making variations as required to replace 3-(aminomethyl)pyridine with oxazol-2-yl-methylamine hydrochloride to react with 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid, the title compound was obtained as a colorless solid in 50% yield: mp 163-165° C.; 1H NMR (300 MHz, CDCl3) δ 7.72 (s, 1H), 7.64 (s, 1H), 7.40-7.34 (m, 2H), 7.08 (s, 1H), 7.06-6.99 (m, 2H), 6.91 (s, 1H), 6.64 (br s, 1H), 4.96 (s, 2H), 4.72 (d, J=5.2 Hz, 2H), 2.53 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6 (d, JC-F=247.0 Hz), 162.3, 150.4, 140.6, 139.3, 135.0, 132.3, 131.2 (d, JC-F=3.3 Hz), 130.3 (d, JC-F=8.3 Hz), 127.1, 125.4, 120.4, 115.7 (d, JC-F=21.6 Hz), 48.9, 37.3, 16.0; MS (ES+) m/z 414.1 (M+1).

reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | oxazol-2-yl-methylamine hydrochloride | Cl.O1C(=NC=C1)NC
reactant | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)O)C)C=C1 | C15H12FN3O3S
product | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methyl-N-(oxazol-2-ylmethyl)thiophene-2-carboxamide | 50% yield | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)NCC=2OC=CN2)C)C=C1 | C19H16FN5O3S
